US07666879B2
5-tert-Butyl-4-(2-dimethylamino-ethoxy)-2-methyl-phenylamine
Heat a mixture of 4-amino-2-tert-butyl-5-methyl-phenol (600 mg, 3.2 mmol), N,N-dimethylamine ethyl bromide HBr salt (820 mg, 3.4 mmol), and potassium hydroxide (750 mg, 13.4 mmol) in 1,2-dimethoxyethane in a microwave vessel with irradiation of <10 Watts at a temperature of 150-170° C. for 5 minutes. After the reaction cools, filter via Celite® and wash with dichloromethane. Concentrate the filtrate and purify by silica gel column chromatography, with a gradient from 100% DCM to 5% MeOH in DCM to 5% (2N ammonia in MeOH) in DCM to yield the title compound as a red brown oil (26% yield). LCMS (ES), m/z 251 (M+1).

reactant | 4-amino-2-tert-butyl-5-methyl-phenol | 3.2 mmol, 600 mg | NC1=CC(=C(C=C1C)O)C(C)(C)C | C11H17NO
reactant | N,N-dimethylamine ethyl bromide HBr salt | 3.4 mmol, 820 mg | Br.C(C)Br.CNC
reactant | potassium hydroxide | 13.4 mmol, 750 mg | [OH-].[K+]
solvent | 1,2-dimethoxyethane | COCCOC | C4H10O2
product | 5-tert-Butyl-4-(2-dimethylamino-ethoxy)-2-methyl-phenylamine | 26% yield | C(C)(C)(C)C=1C(=CC(=C(C1)N)C)OCCN(C)C | C15H26N2O
